US04448908
Aminoacetaldehyde di-n-pentyl acetal was prepared by transacetalization of aminoacetaldehyde dimethyl acetal with pentanol following the general procedure of Juret and Chin in J. Am. Chem. Soc. 83, 1560 (1961).

reactant | aminoacetaldehyde dimethyl acetal | COC(CN)OC | C4H11NO2
reactant | pentanol | C(CCCC)O | C5H12O
product | Aminoacetaldehyde di-n-pentyl acetal | C(CCCC)OC(CN)OCCCCC | C12H27NO2
